US06489344B1
6-[(2-{[6-(2,4-dichlorophenyl)-5-imidazolyl-2-pyridyl]amino}ethyl)amino]pyridine-3-carbonitrile was prepared from 2-chloropyridine-5-carbonitrile using the general method for {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-imidazolyl(2-pyridyl)]amine.

reactant | 2-chloropyridine-5-carbonitrile | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-imidazolyl(2-pyridyl)]amine | NC1=C(C=CC(=N1)NCCNC1=NC(=C(C=C1)C=1NC=CN1)C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C21H18Cl2N8O2
product | 6-[(2-{[6-(2,4-dichlorophenyl)-5-imidazolyl-2-pyridyl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=N1)NCCNC1=CC=C(C=N1)C#N)C=1NC=CN1 | C22H17Cl2N7
